US07199244B2
Step d—Preparation of trifluoro-methanesulfonic acid 5-amino-5,6,7,8-tetrahydro-naphthalen-2-yl ester
A solution of trifluoro-methanesulfonic acid 5-azido-5,6,7,8-tetrahydro-naphthalen-2-yl ester (10.3 g, 32.1 mmol, 1.0 eq) in THF (70 mL) was added PPh3 (Aldrich, 8.4 g, 32.1 mmol, 1.0 eq), and H2O (30 mL) at 0° C. The mixture was warmed to RT and stirred overnight. 2N HCl was added until the mixture was acidic (pH ˜1–2). The mixture was extracted with toluene (3×100 mL). The aqueous phase was neutralized with 5N NaOH to pH around 12–13, and extracted with ether (3×150 mL). The ether solution was dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by flash chromatography (6% MeOH—CH2Cl2) to provide the title compound.

reactant | trifluoro-methanesulfonic acid 5-azido-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 32.1 mmol, 10.3 g, 1.0 eq | N(=[N+]=[N-])C1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H10F3N3O3S
reactant | PPh3 | 32.1 mmol, 8.4 g, 1.0 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | H2O | 30 mL | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | trifluoro-methanesulfonic acid 5-amino-5,6,7,8-tetrahydro-naphthalen-2-yl ester | NC1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H12F3NO3S
